US07465733B2
Step A: 1a,2,3,8b-Tetrahydrooxireno[d][1]benzoxepin
To 0.5 g of 2,3-dihydro-1-benzoxepin (3.42 mmol), prepared according to the method described in J. Org. Chem., 1969, 34 (1), 207, dissolved in 30 ml of a mixture of ethyl acetate/water 50/50, there are added 1.44 g of sodium hydrogen carbonate (17.1 mmol) and then, over 1 hour, a solution of 2.1 g of Oxone® (3.42 mmol) in 15 ml of water. After the end of the addition, stirring is carried out for a further hour and then the organic phase is separated off. The aqueous phase is again extracted with 10 ml of ethyl acetate, and the combined organic phases are washed with water, dried, filtered and evaporated to dryness to yield the expected product in the form of an oil.

reactant | 2,3-dihydro-1-benzoxepin | 3.42 mmol, 0.5 g | O1CCC=CC2=C1C=CC=C2 | C10H10O
reactant | sodium hydrogen carbonate | 17.1 mmol, 1.44 g | C(O)([O-])=O.[Na+]
reactant | Oxone | 2.1 g | OOS(=O)[O-].[K+]
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | water | 15 ml | O | H2O
product | 1a,2,3,8b-Tetrahydrooxireno[d][1]benzoxepin | O1C2CCOC3=C(C21)C=CC=C3 | C10H10O2
